### PR TITLE
[Merged by Bors] - feat: CategoryTheory.toSheafify induces an isomorphism on stalks

### PR DESCRIPTION
**Pull request by Brian-Nugent**
The main result `TopCat.Presheaf.stalkFunctor_map_unit_toSheafify_isIso` says that for a presheaf on a topological space, the induced map on stalks of `CategoryTheory.toSheafify` is an isomorphism. This is similar to `TopCat.Presheaf.sheafifyStalkIso` defined in the same file except that the latter is only for sheaves of Types. 

The proof involved the abstract nonsense `CategoryTheory.Adjunction.isIso_map_unit_of_isLeftAdjoint_comp` which should probably go in a different file but feels too specific to go into any of the files in `CategoryTheory.Adjunction`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Sheaves/Sheafify.lean [hunk 1]
```diff
@@ -34,7 +35,7 @@ following <https://stacks.math.columbia.edu/tag/007X>.
 assert_not_exists CommRingCat
 
 
-universe v
+universe u v
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Sheafify.lean]:
```suggestion
universe v u
```
Morphisms before objects

File: Mathlib/Topology/Sheaves/Sheafify.lean [hunk 2]
```diff
@@ -124,3 +125,48 @@ def sheafifyStalkIso (x : X) : F.sheafify.presheaf.stalk x ≅ F.stalk x :=
...
+    IsIso (T.map (adj1.unit.app X)) := by
+  apply isIso_of_coyoneda_map_bijective
+  intro Y
+  let φ := Equiv.trans (adj2.homEquiv (R.obj (L.obj X)) Y) <| Equiv.trans h.homEquiv.symm <|
+    Equiv.trans (adj1.homEquiv X (S.obj Y)) (adj2.homEquiv X Y).symm
+  have : φ.toFun = fun x => T.map (adj1.unit.app X) ≫ x := by
+    ext
+    apply Adjunction.map_unit_of_isLeftAdjoint_comp
+  rw[← this]
+  exact φ.bijective
```
Comment (dagurtomas) [inline Mathlib/Topology/Sheaves/Sheafify.lean]:
```suggestion
include adj2 h in
theorem isIso_map_unit_of_isLeftAdjoint_comp : IsIso (T.map (adj1.unit.app X)) := by
  apply isIso_of_coyoneda_map_bijective
  intro Y
  convert ((adj2.homEquiv (R.obj (L.obj X)) Y).trans <| h.homEquiv.symm.trans <|
    (adj1.homEquiv X (S.obj Y)).trans (adj2.homEquiv X Y).symm).bijective using 1
  ext x
  have := adj2.counit_naturality x
  simp_all [Adjunction.homEquiv]
```
You can move this to the file `CategoryTheory/Adjunction/FullyFaithful.lean`

File: Mathlib/Topology/Sheaves/Skyscraper.lean [hunk 3]
```diff
@@ -390,6 +390,12 @@ def stalkSkyscraperSheafAdjunction [HasColimits C] :
 instance [HasColimits C] : (skyscraperSheafFunctor p₀ : C ⥤ Sheaf C X).IsRightAdjoint :=
   (stalkSkyscraperSheafAdjunction _).isRightAdjoint
 
+/-- Taking stalks is the left adjoint of `skyscraperSheafFunctor ⋙ Sheaf.forget`. Useful
+only when the fact that `skyscraperPresheafFunctor` factors through `Sheaf C X` is relavent. -/
```
Comment (joelriou) [inline Mathlib/Topology/Sheaves/Skyscraper.lean]:
```suggestion
only when the fact that `skyscraperPresheafFunctor` factors through `Sheaf C X` is relevant. -/
```

**Comment by joelriou** [comment]
Thanks!

bors merge
